US09388161B2
n-Butyllithium (1.6 M in hexanes, 1.48 mL, 2.37 mmol) was added dropwise to a −78° C. solution of 2,4-dibromothiazole (0.524 g, 2.16 mmol) in dichloromethane (11 mL). The mixture stirred at −78° C. for 20 minutes, and then tert-butyl 4-oxopiperidine-1-carboxylate (0.516 g, 2.59 mmol) was added in 8 portions. The reaction mixture stirred at −78° C. for 10 minutes. The cooling bath was removed, and the reaction was allowed to warm to rt over 1 h. The reaction mixture was cooled to −30° C. and was then quenched by the addition of saturated aqueous ammonium chloride solution. The aqueous phase was separated and extracted with dichloromethane, and the combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (Biotage 50 g column, gradient elution with 5-60% ethyl acetate-hexane) to afford tert-butyl 4-(4-bromothiazol-2-yl)-4-hydroxypiperidine-1-carboxylate (0.744 g, 95%). MS (ESI, pos. ion) m/z 363, 365 [M+H]+.

reactant | n-Butyllithium | 2.37 mmol, 1.6 M, 1.48 mL | C(CCC)[Li]
reactant | 2,4-dibromothiazole | 2.16 mmol, 0.524 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.59 mmol, 0.516 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(4-bromothiazol-2-yl)-4-hydroxypiperidine-1-carboxylate | 0.744 g, 95% | BrC=1N=C(SC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C13H19BrN2O3S
